US08895549B2
A degassed solution of 4-(benzyloxy)-3-methoxy-2-nitrobenzonitrile (185 g, 651 mmol) in glacial acetic acid (3500 mL) and water (10 mL) was cooled to 5° C. and treated with iron powder (182 g, 3.25 mol). After 3 days the reaction mixture was filtered through Celite, and the filtrate concentrated under reduced pressure. The oil, thus obtained, was treated with a saturated sodium chloride solution, neutralized with a sodium bicarbonate solution and extracted into CH2Cl2. The resulting emulsion was filtered through Celite after which the organic layer was separated, washed with a saturated sodium chloride solution, dried (anh. sodium sulfate) and concentrated under reduced pressure to afford 2-amino-4-(benzyloxy)-3-methoxybenzonitrile as a solid (145 g, 88%): 1H NMR (DMSO-d6) δ: 7.32-7.44 (5H, m), 7.15 (1H, d), 6.47 (1H, d), 5.69 (2H, s), 5.15 (2H, s), 3.68 (3H, s).

reactant | 4-(benzyloxy)-3-methoxy-2-nitrobenzonitrile | 651 mmol, 185 g | C(C1=CC=CC=C1)OC1=C(C(=C(C#N)C=C1)[N+](=O)[O-])OC | C15H12N2O4
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 3500 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
catalyst | iron | 3.25 mol, 182 g | [Fe] | Fe
product | 2-amino-4-(benzyloxy)-3-methoxybenzonitrile | 145 g, 88% | NC1=C(C#N)C=CC(=C1OC)OCC1=CC=CC=C1 | C15H14N2O2
